US04414221
3,6-Bis-(2-chlorophenyl)-4-phenylpyridazine
3,6-Bis(2-chlorophenyl)-1,2,4,5-tetrazine (4.6 g) and phenylacetaldehyde (2.0 g) were dissolved in tetrahydrofuran (60 ml). A solution of potassium hydroxide in methanol (1.5 ml, 1%) was added dropwise to the solution and left to stand for 5 minutes. The solution was evaporated to 20 mls volume and was then diluted with water (50 ml). The precipitated solid was filtered, washed with water and dried to give 5.5 g of desired product, mp 176°-178° C.

reactant | 3,6-Bis(2-chlorophenyl)-1,2,4,5-tetrazine | 4.6 g | ClC1=C(C=CC=C1)C=1N=NC(=NN1)C1=C(C=CC=C1)Cl | C14H8Cl2N4
reactant | phenylacetaldehyde | 2.0 g | C1(=CC=CC=C1)CC=O | C8H8O
reactant | potassium hydroxide | [OH-].[K+]
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | methanol | 1.5 ml | CO | CH4O
product | 3,6-Bis-(2-chlorophenyl)-4-phenylpyridazine | 5.5 g | ClC1=C(C=CC=C1)C=1N=NC(=CC1C1=CC=CC=C1)C1=C(C=CC=C1)Cl | C22H14Cl2N2
